US04898874
5-Methyl-3-phenyl-2.1-benzisoxazole
A solution of 31.6 g (0.15 mole) of 5-methyl-2-aminobenzophenone, 350 ml of glacial acetic acid and 17 ml of 30% hydrogen peroxide was let stand at ambient temperature for 72 hr. The solution was poured into 2.5 liters of water. The mixture was let stand at ambient temperature for several days until the residue became crystalline. The solid was collected by filtration, dried, and chromatographed on 250 g silica gel to give 12.5 g (40%) of pale yellow solid, m.p. 64°-66° C. (after recrystallization from 2-propanol).

reactant | 5-methyl-2-aminobenzophenone | 0.15 mole, 31.6 g | CC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N | C14H13NO
reactant | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 17 ml | OO | H2O2
solvent | water | 2.5 liters | O | H2O
product | 5-Methyl-3-phenyl-2.1-benzisoxazole | CC=1C=CC=2C(=C(ON2)C2=CC=CC=C2)C1 | C14H11NO
